US06528653B2
tert-Butyl 5,6-dihydro-5-oxo-4H-thieno[2,3-b]pyrrole-2-carboxylate (915 mg, 3.8 mmol) was dissolved in a solution of 1% piperidine in 2-propanol (10 ml). 3-Methoxypyrrole-2-carboxaldehyde (3.8 mmol, 480 mg) was added in one portion and the mixture heated at 75° C. for 1 hour. The reaction mixture was poured into an ice/water mixture (15 ml) and the precipitated solid was collected by filtration and washed with water to give 530 mg of tert-butyl (Z)-5,6-dihydro-4-[(3-methoxy-1H-pyrrol-2-yl)methylene]-5-oxo-4H-thieno [2,3-b]pyrrole-2-carboxylate as a red solid. MS(ES): m/e 347 [M+H].

reactant | tert-Butyl 5,6-dihydro-5-oxo-4H-thieno[2,3-b]pyrrole-2-carboxylate | 3.8 mmol, 915 mg | O=C1CC2=C(N1)SC(=C2)C(=O)OC(C)(C)C | C11H13NO3S
reactant | 3-Methoxypyrrole-2-carboxaldehyde | 3.8 mmol, 480 mg | COC1=C(NC=C1)C=O | C6H7NO2
solvent | piperidine | N1CCCCC1 | C5H11N
solvent | 2-propanol | 10 ml | CC(C)O | C3H8O
product | tert-butyl (Z)-5,6-dihydro-4-[(3-methoxy-1H-pyrrol-2-yl)methylene]-5-oxo-4H-thieno [2,3-b]pyrrole-2-carboxylate | 530 mg | COC1=C(NC=C1)\C=C/1\C2=C(NC1=O)SC(=C2)C(=O)OC(C)(C)C | C17H18N2O4S
